US04419439
Synthesis of 4-n-Decyloxy-1-naphthol [Compound (I-3)]
112 g of naphthohydroquinone and 560 ml of n-decanol were placed in a 1 l three-necked flask and 56 ml of concentrated sulfuric acid was dropwisely added thereto for 30 minutes under nitrogen gas stream while stirring. Thereafter, the mixture was further stirred for 30 minutes and, then, heated at 50° C. for 1 hour and 30 minutes. After cooling, ethyl acetate-water was added to the reaction mixture and the precipitated crystals were filtered off. An aqueous sodium hydroxide solution was added to the filtrate so as to water layer reach pH of 5 to 6. Then, the ethyl acetate layer was washed with water and dried with MgSO4 overnight. The dried ethyl acetate solution was evaporated under reduced pressure to remove ethyl acetate and n-decanol. The residue was dissolved in 1 l of ethyl acetate and treated with 26 g of active carbon followed by concentration under reduced pressure. The residue was recrystallized from a mixed solvent of ethyl acetate and n-hexane and, further, recrystallized from benzene to obtain 73 g of white crystals having a melting point of 89° to 90° C.

reactant | naphthohydroquinone | 112 g | C1=CC=C2C(=C1)C(=CC=C2O)O | C10H8O2
reactant | n-decanol | 560 ml | C(CCCCCCCCC)O | C10H22O
reactant | sulfuric acid | 56 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-n-Decyloxy-1-naphthol | 73 g | C(CCCCCCCCC)OC1=CC=C(C2=CC=CC=C12)O | C20H28O2
